US06995144B2
3-[4-[2-(2-Fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one
After adding 5 ml of 4N hydrogen chloride/ethyl acetate to 334 mg of 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)-piperidin-4-yl]-2-(2-fluorophenyl)ethanone, the mixture was stirred for 2 hours at room temperature. A 1N sodium hydroxide solution and saturated aqueous sodium bicarbonate solution were added to the reaction solution for neutralization, and extraction was performed with dichloromethane. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether was added and the insoluble portion was filtered out to obtain the title compound (260 mg, 91% yield).

reactant | hydrogen chloride ethyl acetate | 4N, 5 ml | Cl.C(C)(=O)OCC
reactant | 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)-piperidin-4-yl]-2-(2-fluorophenyl)ethanone | 334 mg | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)C(CC1=C(C=CC=C1)F)=O | C22H28FN3O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[4-[2-(2-Fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one | 260 mg, 91% yield | FC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC=1C(NC=CN1)=O | C18H20FN3O2
